US09359375B2
A solution of N-Boc-D-tryptophan (1.00 g, 3.29 mmol), HOBt monohydrate (0.600 g, 3.92 mmol) and EDC (0.820 g, 4.27 mmol) in DMF (12 mL) was stirred at room temperature for 2 h, conc. NH4OH (1.10 mL, ca. 15.4 mmol) was added. The mixture was stirred for 18 h. Water and EtOAc were added. The organic phase was separated, washed with 5% NaHCO3, dried over Na2SO4, concentrated in vacuo to give (R)-tert-butyl 1-amino-3-(1H-indol-3-yl)-1-oxopropan-2-ylcarbamate (0.963 g)

reactant | N-Boc-D-tryptophan | 3.29 mmol, 1.00 g | C(=O)(OC(C)(C)C)N[C@H](CC1=CNC2=CC=CC=C12)C(=O)O | C16H20N2O4
reactant | HOBt monohydrate | 3.92 mmol, 0.600 g | C1=CC=C2C(=C1)N=NN2O.O
reactant | EDC | 4.27 mmol, 0.820 g
reactant | NH4OH | ca. 15.4 mmol, 1.10 mL | [NH4+].[OH-]
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | Water | O | H2O
product | (R)-tert-butyl 1-amino-3-(1H-indol-3-yl)-1-oxopropan-2-ylcarbamate | 0.963 g | NC([C@@H](CC1=CNC2=CC=CC=C12)NC(OC(C)(C)C)=O)=O | C16H21N3O3
